US06271008B1
9.5 ml of 0.1 M citric acid and 40.5 ml of 0.1 M tri-sodium citrate were diluted to 100 ml to give a pH 6 citrate buffer solution. (Ref.: Buffers for pH and Metal Ion Control, D. D. Perrin and B. Dempsey, Publ. John Wiley and Sons, pg 103). Petroleum spirit (40 ml), ethanol (0.5 ml), the pH 6 citrate buffer (5 ml) and sodium pyruvate (2.5 g, 23 mmol) were stirred at room temperature for 1 h. Benzaldehyde (127 mg, 1.2 mmol) and baker's yeast (5 g) were then added and the reaction stirred at 5° C. for 24 h. The mixture was then filtered and yeast washed with diethyl ether. After removal of the solvent in vacuo the product was purified by flash distillation (200° C./1 mm) to give phenylacetylcarbinol (44 mg, 24%). The GC of the product showed pure PAC (11.88 min.). Chiral GC showed a ratio of 97.5:2.5, 95% ee.

reactant | Metal | N[C@@H](CCSC)C=O | C5H11NOS
reactant | citrate | 5 ml, pH 6 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | sodium pyruvate | 23 mmol, 2.5 g | C(C(=O)C)(=O)[O-].[Na+]
reactant | Benzaldehyde | 1.2 mmol, 127 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | phenylacetylcarbinol | 44 mg, 24% | C1(=CC=CC=C1)CC(=O)CO | C9H10O2
